US05135955
B. Preparation of 4-[4-(hexyloxy)phenyl]-3-(4-methoxyphenyl)-2-butanone
49.2 g of 3-(4-methoxyphenyl)-2-propanone and 61.8 g of 4-hexyloxybenzaldehyde were added to 100 ml of toluene containing 4 ml of piperidine. The resultant mixture was heated at reflux temperature overnight after which the solvent was removed in vacuo to afford the desired subtitled intermediate (46% yield), b.p. 230°-235° C.

reactant | 3-(4-methoxyphenyl)-2-propanone | 49.2 g | COC1=CC=C(C=C1)CC(C)=O | C10H12O2
reactant | 4-hexyloxybenzaldehyde | 61.8 g | C(CCCCC)OC1=CC=C(C=O)C=C1 | C13H18O2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[4-(hexyloxy)phenyl]-3-(4-methoxyphenyl)-2-butanone | 46% yield | C(CCCCC)OC1=CC=C(C=C1)CC(C(C)=O)C1=CC=C(C=C1)OC | C23H30O3
